US06660753B2
A mixture of 3-(5-fluoropyrid-2-yl)-5-(3-amino-5-cyanophenyl) -1,2,4-oxadiazole (30 mg, 0.11 mmol), cyclopentanone (24 μL, 0.26 mmol), sodium cyanoborohydride, 1.0 M solution in tetrahydrofuran, (128 AL, 0.12 mmol) in acetic acid (4 mL) was heated at 60° C. for 1 hour. After cooling, the reaction mixture was diluted with ethyl acetate and then washed with water (2X) and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Silica gel chromatography using 20% ethyl acetate/hexanes afforded 15 mg (39%) of 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-cyclopentylaminophenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.69 (d, 1H), 8.25 (m, 1H), 7.79 (s, 1H), 7.61 (m, 2H), 6.99 (s, 1H), 4.17 (d, 1H), 3.88 (m, 1H), 2.10 (m, 1H), 1.74 (s, 2H), 1.50 (m, 1H), 1.27 (m, 2H), 0.87 (m, 2H).

reactant | 3-(5-fluoropyrid-2-yl)-5-(3-amino-5-cyanophenyl) -1,2,4-oxadiazole | 0.11 mmol, 30 mg | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)N | C14H8FN5O
reactant | cyclopentanone | 0.26 mmol, 24 μL | C1(CCCC1)=O | C5H8O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-fluoropyrid-2-yl)-5-(3-cyano-5-cyclopentylaminophenyl)-1,2,4-oxadiazole | 15 mg, 39% | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)NC1CCCC1)C#N | C19H16FN5O
